US05366987
(e) (±)-4-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1H-imidazole-1-acetamide
Excess triethylamine (2 mL) was added to a suspension of 2,4,6-trimethoxyaniline hydrochloride (1.6 g, 7.3 mmol) in 500 mL THF and stirred for 1 hour before filtering to remove triethylamine hydrochloride. The filtrate was concentrated and redissolved in 500 mL dichloromethane along with (±)-4-dodecyl-α-phenyl-1H-imidazole-1-acetic acid (2.45 g, 6.6 mmol) at 0° C. Dicyclohexylcarbodiimide (1.43 g, 6.9 mmol) was added in one portion and the resulting suspension was warmed to room temperature and stirred for 16 hours. Filtered to remove a white solid and partitioned the filtrate between dichloromethane and IN HCl. The organic layer was washed with 1N NaOH, dried over MgSO4, filtered, and concentrated. The resulting residue was chromatographed (20% EtOAc/hexanes on silica) to give the title compound as a white solid (1.25 g, 35%); mp 95°-102° C.

reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trimethoxyaniline hydrochloride | 7.3 mmol, 1.6 g | Cl.COC1=C(N)C(=CC(=C1)OC)OC
reactant | (±)-4-dodecyl-α-phenyl-1H-imidazole-1-acetic acid | 6.6 mmol, 2.45 g | C(CCCCCCCCCCC)C=1N=CN(C1)C(C(=O)O)C1=CC=CC=C1 | C23H34N2O2
reactant | Dicyclohexylcarbodiimide | 6.9 mmol, 1.43 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (±)-4-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1H-imidazole-1-acetamide | 1.25 g, 35% | C(CCCCCCCCCCC)C=1N=CN(C1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C32H45N3O4
